US07141561B2
(2,2-Dimethoxyethyl)-(4-phenoxyphenyl)amine
A solution of 4-phenoxyaniline (915 mg) in dimethylformamide (5 ml) was mixed with bromoacetaldehyde dimethyl acetal (1.1 ml) and BEMP (1.9 ml). The reaction mixture was shaken at 100° C. for 16 hours. Volatiles were removed and the residue was purified by chromatography on silica gel (eluent: dichloromethane/hexane 1:2, later 1:1 with in each case 1% v/v 7N ammonia solution in methanol). The product with the molecular weight of 273.33 (C16H19NO3); MS (ESI): 274 ([M+H]+), was obtained in this way.

reactant | 4-phenoxyaniline | 915 mg | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
reactant | bromoacetaldehyde dimethyl acetal | 1.1 ml | COC(CBr)OC | C4H9BrO2
reactant | BEMP | 1.9 ml | CCN(CC)P1(=NC(C)(C)C)N(CCCN1C)C | C13H31N4P
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (2,2-Dimethoxyethyl)-(4-phenoxyphenyl)amine | COC(CNC1=CC=C(C=C1)OC1=CC=CC=C1)OC | C16H19NO3
